US03974150
Diphenylmethyl (6R,7R,2'R and S)-7-(2'-[fur-2-yl]-acetamido)-3-methylceph-3-em-4-carboxylate (463mg, 1.365 mmole) was treated with anisole and trifluoroacetic acid in the manner described previously [see Example 10 (b)] to give (6R,7R,2'R and S)-7-[2'-hydroxy-2'-(fur-2-yl)-acetamido]-3-methylceph-3-em-4-carboxylic acid as a foam (368mg, 1.09mmole, 57.3%). The title compound was obtained from the acid (368mg, 1.1mole) by treatment with sodium 2-ethylhexanoate in acetone and ether, as a pale-brown solid containing 21/2mole-equivalents of water (i.r. and microanalysis), (221mg, 0.545mmole, 50%); λmax (pH6 buffer) 220 and 258nm (ε10,780 and 8,000 respectively); νmax (Nujol) 3370 (OH,NH, and H2 0), 1755 (azetidin-2-one), 1675 and 1518 (CONH), and 1590 cm-1 (CO2 -); τ(Me2SO-D6) 1.57 and 1.63 (total 1H,2d, J9Hz, NH), 2.37 (1H,s) and 3.59 (2H,m) (furyl protons), 4.44 (1H,m, C7 -H), 4.81 and 4.83 (total 1H, 2s, -CHOH), 4.97 (1H,d,J5Hz, C6 -H), 6.47 and 6.86 (2H, Abq, J18Hz, C2 -H2), 8.00 (3H,s,C3 -CH3). (Found: C, 41.2, 41.5; H,3.4, 3.6; N,6.4, 6.5; S,7.8; Na,5.9. C14H13N2NaO6S.2.5 H2O (405.3) requires: C, 41.6; H,4.5; N,6.9; S,7.9; Na,5.7%).

reactant | 7-(2'-[fur-2-yl]-acetamido)-3-methylceph-3-em-4-carboxylate | 1.365 mmole, 463mg | O1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)[O-])C1=O
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 7-[2'-hydroxy-2'-(fur-2-yl)-acetamido]-3-methylceph-3-em-4-carboxylic acid | 1.09mmole, 368mg, 57.3% | OC(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)C=1OC=CC1 | C14H14N2O6S
